US05112947
The coupling and Nα -deprotection processes were repeated in the same manner to prepare H-Asn-Cys(Trt)-Sar-Arg(Mtr)-Gly-resin, followed by another coupling process using pGlu-OH to obtain pGlu-Asn-Cys(Trt)-Sar-Arg(Mtr)-Gly-resin. After drying, the resin was stirred in TFA-anisolethiophenol (10-1-1 ml) for 4 hours, filtered and washed with TFA.

reactant | H-Asn-Cys(Trt)-Sar-Arg(Mtr)-Gly | N[C@@H](CC(N)=O)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N(C)CC(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)NCC(=O)O | C47H59N9O10S2
reactant | pGlu-OH | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
product | pGlu-Asn-Cys(Trt)-Sar-Arg(Mtr)-Gly | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N(C)CC(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)NCC(=O)O | C52H64N10O12S2
